US07544704B2
b) 2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-isonicotinic acid methyl ester
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (58 mg, 0.32 mmol) was converted (using 2-iodo-isonicotinic acid methyl ester instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 70 mg, 70%) which was obtained as a light brown solid. MS: m/e=319.1 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.32 mmol, 58 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-iodo-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)I)=O | C7H6INO2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-isonicotinic acid methyl ester | 70 mg, 70% | COC(C1=CC(=NC=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1)=O | C19H14N2O3
